US05846995
N-(methyl)-2-dimethylamino-1,2,3,4-tetrahydrodibenzofur-an-8-carboxamide
Beginning with 0.011 gm (0.04 mMol) 2-dimethylamino-1,2,3,4-tetrahydrodibenzofuran-8-carbonyl chloride and 0.08 mMol methylamine, 0.0023 gm (20%) of the title compound were recovered.

reactant | 2-dimethylamino-1,2,3,4-tetrahydrodibenzofuran-8-carbonyl chloride | 0.04 mMol, 0.011 gm | CN(C1CC2=C(OC3=C2C=C(C=C3)C(=O)Cl)CC1)C | C15H16ClNO2
reactant | methylamine | 0.08 mMol | CN | CH5N
product | N-(methyl)-2-dimethylamino-1,2,3,4-tetrahydrodibenzofur-an-8-carboxamide | 0.0023 gm, 20% | CNC(=O)C=1C=CC2=C(C3=C(O2)CCC(C3)N(C)C)C1 | C16H20N2O2
